Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Tetracycline / prednisone / Zithromax Z-Pak
 
Attending: ___.
 
Chief Complaint:
carotid stenosis
 
Major Surgical or Invasive Procedure:
RIGHT TRANSCAROTID STENT ON THE RIGHT 

 
History of Present Illness:
Mr. ___ is seen today at the request of Dr. ___ 
consultation regarding critical, asymptomatic carotid stenosis.

Mr. ___ is a ___ male in overall good health.  His 
atherosclerotic risk factors include hypertension, former 
smoking, and borderline hypercholesterolemia.  He was concerned 
about some symptoms of lightheadedness and was found to have a 
carotid bruit on exam.  The ultrasound revealed a right ICA 
greater than 80% stenosis and a moderate left ICA stenosis.

On close questioning in the office today, he has no lateralizing 
symptoms of TIA or stroke.  Specifically, he denies any 
unilateral motor or sensory loss, there are no symptoms of 
aphasia.  There are no symptoms of amaurosis.  He has had some 
positional lightheadedness when he stands after sitting.  He has
had some recent headaches and some concern about minor episodes 
of confusion.  For example, he forgot to put his credit card in 
the ___ at a restaurant to pay.

 
Past Medical History:
PAST MEDICAL HISTORY:
1.  Hypertension.
2.  Borderline hypercholesterolemia.
3.  Tobacco use, quit ___.
4.  History of gout.
5.  History of anal condylomata.
6.  Chronic low back pain.
7.  Colon polyps.
8.  Erectile dysfunction.

PAST SURGICAL HISTORY:
1.  Condyloma, fulguration.
2.  Colonoscopic polypectomy.
 
Social History:
___
Family History:
Significant for father with history of carotid endarterectomy.  
History of emphysema and breast cancer.
 
Physical Exam:
Physical Exam at Discharge: 
Vitals:98.3, 142/66, 61, 18, 95Ra  
Gen: Appears well, AAOx3
CV: RRR
Resp: Normal effort, no distress
Abdomen: Soft, nondistended, nontender
Wound: small hematoma ~4cm soft, superficial ecchymosis evident, 
tender but softer than prior and not enlarging, small firmness 
in left groin ~3cn, ecchymosis also present, nontender
Ext: Warm, well perfused, no edema
GU: foley in place 
Neuro exam: II-XII intact, no gross deficits, asymmetric smile
(right side) baseline 

 
Pertinent Results:
___ 05:37AM BLOOD Hct-34.6*
___ 05:37AM BLOOD Creat-0.9 K-4.3
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with carotid stenosis who was 
admitted to the ___ on ___. The patient was taken to the endovascular suite and 
underwent a right R transcarotid stent and L venous access. For 
details of the procedure, please see the surgeon's operative 
note. The patient tolerated the procedure well without 
complications and was brought to the post-anesthesia care unit 
in stable condition. He was noted to have some swelling at his 
right carotid entry site. The swelling remained stable, he was 
without any difficulty swallowing, dyspnea, or new neurologic 
deficits. He has an asymmetric smile which was evident prior to 
the operation. After a brief stay, the patient was transferred 
to the vascular surgery floor where he remained through the rest 
of the hospitalization. 

Post-operatively, he did well with some evidence of groin 
swelling. He retained 800cc in his bladder in the morning after 
his first void. He was straight cathed for 830cc. He 
subsequently retained again and had a foley place which produced 
another 800cc. He was given the choice of a second voiding trial 
in the morning or of being discharged with a leg bag and 
following up with his PCP early next week. He decided to go home 
with the leg bag and was instructed to call his PCP ___ to 
arrange for the voiding trial. At the time of discharge on POD 1 
he was able to tolerate a regular diet, ambulate well, void 
without issues, and pain was controlled on oral medications 
alone. He was deemed ready for discharge, and was given the 
appropriate discharge and follow-up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. BuPROPion XL (Once Daily) 150 mg PO DAILY 
4. ClonazePAM 0.5 mg PO DAILY:PRN unknown 
5. Diltiazem Extended-Release 420 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Indomethacin 50 mg PO TID:PRN Pain - Moderate 
8. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Moderate 
do not drink alcohol or take more than 4000mg in 24 hours  
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth every day Disp #*30 
Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
Only take for pain not covered by tylenol 
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ hours as 
needed Disp #*5 Tablet Refills:*0 
4.  Tamsulosin 0.4 mg PO DAILY 
Please talk to your PCP and let him know you started this 
medication 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth every night Disp 
#*30 Capsule Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Atenolol 25 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
9.  ClonazePAM 0.5 mg PO DAILY:PRN unknown  
10.  Diltiazem Extended-Release 420 mg PO DAILY  
11.  Losartan Potassium 50 mg PO DAILY  
12. HELD- Indomethacin 50 mg PO TID:PRN Pain - Moderate  This 
medication was held. Do not restart Indomethacin until  you are 
no longer taking plavix. Do not take this medication for the 
next month as it can increase bleeding.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
carotid stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ and 
underwent a right transcarotid stent. You have now recovered 
from surgery and are ready to be discharged. Please follow the 
instructions below to continue your recovery:

Carotid Stent Discharge Instructions
MEDICATIONS:
• Take Aspirin 325 mg (enteric coated) once daily 
• Take Plavix (Clopidogrel) 75mg once daily 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

ACTIVITIES:
• When you go home, you may walk and go up and down stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid on that area
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications
• You should NOT have an MRI scan within the first 4 weeks after 
carotid stenting

CALL THE OFFICE FOR:  ___
• Changes in vision (loss of vision, blurring, double vision, 
half vision)
• Slurring of speech or difficulty finding correct words to use
• Severe headache or worsening headache not controlled by pain 
medication
• A sudden change in the ability to move, use or feel your arm 
or leg
• Trouble swallowing, breathing, or talking
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office at ___.  
• If bleeding does not stop, call ___ for transfer to closest 
Emergency Room. 

You were also noted to have urinary retention, for which a foley 
catheter (catheter in your bladder) was placed. Please follow up 
with you PCP as soon as possible to help address this issue.
 
Followup Instructions:
___